US04649160
The 2-[2-(4-methylthiophenyl)ethoxy]ethanol obtained according to the preceding paragraph was sulfonylated with methanesulfonyl chloride in a manner analogous to that described in Example 1(c) to give 2.41 g (90%) of 2-[2-(4-methylthiophenyl)ethoxy]ethyl methanesulfonate in the form of an oil which was homogeneous according to chromatography.

reactant | 2-[2-(4-methylthiophenyl)ethoxy]ethanol | CSC1=CC=C(C=C1)CCOCCO | C11H16O2S
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | 2-[2-(4-methylthiophenyl)ethoxy]ethyl methanesulfonate | 2.41 g, 90% | CS(=O)(=O)OCCOCCC1=CC=C(C=C1)SC | C12H18O4S2
